US06159904
11.6 Grams (about 9.8 mmol) of a 6.3 wt % sodium hypochlorite aqueous solution was placed in a 50-ml three-necked round-bottomed flask, and cooled to 15~20° C., and then a solution of 0.83 g (2.96 mmol) of 6-acetyl-3,3,5-trimethylthiochroman-4-one-1,1-dioxide in 5 ml of dioxane was gradually added. The mixture was stirred at 15~20° C. for 30 minutes, and then stirred at room temperature (temperature-increased to 28° C.) for 3 hours, and the reaction mixture was diluted with about 50 ml of water and washed with chloroform twice. A sodium sulfite aqueous solution was added to an aqueous layer to decompose excess hypochlorite, and then the mixture was neutralized and acidified with a 5 wt % hydrochloric acid aqueous solution to give a white solid. The solid was extracted with ethyl acetate, and an organic layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure, to give 0.68 g (yield 81%) of 6-carboxy-3,3,5-trimethylthiochroman-4-one-1,1-dioxide in the form of a white solid.

reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | 6-acetyl-3,3,5-trimethylthiochroman-4-one-1,1-dioxide | 2.96 mmol, 0.83 g | C(C)(=O)C=1C(=C2C(C(CS(C2=CC1)(=O)=O)(C)C)=O)C | C14H16O4S
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | about 50 ml | O | H2O
product | 6-carboxy-3,3,5-trimethylthiochroman-4-one-1,1-dioxide | 0.68 g, yield 81% | C(=O)(O)C=1C(=C2C(C(CS(C2=CC1)(=O)=O)(C)C)=O)C | C13H14O5S
